US08022222B2
A suspension of sodium hydride (5.27 g, 209 mmol) in DMF (100 mL) was carefully charged with 5-(hydroxymethyl)-2,4-dimethylpyridin-3-ol hydrochloride (18 g, 95 mmol). The mixture stirred at room temperature for 2 hours. 2-chloro-4-nitropyridine (15 g, 95 mmol) was then added and the reaction stirred overnight at room temperature. The material was diluted with water and extracted with ethylacetate. The organic layer was dried, and concentrated. Flash chromatography (dichloromethane/methanol 20:1) gave (5-(2-chloropyridin-4-yloxy)-4,6-dimethylpyridin-3-yl)methanol (19.8 g, 79%) as colorless oil.

reactant | sodium hydride | 209 mmol, 5.27 g | [H-].[Na+]
reactant | 5-(hydroxymethyl)-2,4-dimethylpyridin-3-ol hydrochloride | 95 mmol, 18 g | Cl.OCC=1C(=C(C(=NC1)C)O)C
reactant | 2-chloro-4-nitropyridine | 95 mmol, 15 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (5-(2-chloropyridin-4-yloxy)-4,6-dimethylpyridin-3-yl)methanol | 19.8 g, 79% | ClC1=NC=CC(=C1)OC=1C(=C(C=NC1C)CO)C | C13H13ClN2O2
